US07279467B2
66.1) 2-diazocyclohexane-1,3-dione
A mixture of 4-acetamidobenzenesulphonylazide (25 g, 104 mmol) and triethylamine (36 ml, 250 mmol) in dichloromethane maintained at a temperature below 30° C. by external cooling is treated dropwise by a solution of cyclohexane-1,3-dione (13 g, 115 mmol) in 200 ml of dichloromethane. The reaction mixture is stirred for 75 minutes at ambient temperature then filtered on Celite. After concentration to approximately 300 ml, the filtrate is washed with water then dried over sodium sulphate. The brown-yellow solid (14 g; 88%) obtained by evaporation of the solvent under reduced pressure is similar to that obtained in Example 55.1, and is used as it is in the following stage.

reactant | 4-acetamidobenzenesulphonylazide | 104 mmol, 25 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | triethylamine | 250 mmol, 36 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexane-1,3-dione | 115 mmol, 13 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-diazocyclohexane-1,3-dione | [N+](=[N-])=C1C(CCCC1=O)=O | C6H6N2O2
